US05696129
(1-Butyl-4-piperidinyl)methanol
A mixture of ethyl isonipecotate (102 g, 0.65 mole) and 1-bromobutane (72 ml, 0.67 mole) in ethanol (1.2 L) was treated with anhydrous potassium carbonate (180 g, 1.3 mole) and heated under reflux for 2 h. The mixture was allowed to cool an then filtered through kieselguhr. The filtrate was concentrated in vacuo to leave a yellow oil, which was dissolved in ether (300 ml) and added dropwise over 20 minutes to a stirred suspension of lithium aluminium hydride (50 g, 1.3 mole) in ether (500 ml) at 0° C. under nitrogen. The mixture was stirred at room temperature for 18 h, then cooled to 0° C. and treated with water (50 ml), 10% NaOH solution (50 ml) and water (150 ml). The mixture was filtered through keiselguhr and the filtrate concentrated under vacuum to leave a pale yellow oil, which was distilled to afford the title compound as a colourless oil (88.5 g, 80%) bp 102°-108° C. at 0.1 mm Hg.

reactant | ethyl isonipecotate | 0.65 mole, 102 g | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | 1-bromobutane | 0.67 mole, 72 ml | BrCCCC | C4H9Br
reactant | potassium carbonate | 1.3 mole, 180 g | C([O-])([O-])=O.[K+].[K+]
reactant | lithium aluminium hydride | 1.3 mole, 50 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | NaOH | 50 ml | [OH-].[Na+]
solvent | ethanol | 1.2 L | C(C)O | C2H6O
solvent | ether | 300 ml | CCOCC | C4H10O
solvent | ether | 500 ml | CCOCC | C4H10O
solvent | water | 150 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | (1-Butyl-4-piperidinyl)methanol | 88.5 g, 80% | C(CCC)N1CCC(CC1)CO | C10H21NO
